US04242273
Preparation of N-trifluoroacetyl-4-(hexadecylamino)benzoic acid
To a stirred, ice-cold suspension of 0.90 g. of 4-(n-hexadecylamino)benzoic acid in 10 ml. of dimethoxyethane and 1.6 ml. of pyridine is added 1.8 ml. of trifluoroacetic anhydride. The solution is stirred at 0° C. for 30 min., then 30 min. at room temperature. The solution is diluted with 30 ml. of ether and 10 g. of ice. After stirring vigorously for 15 min., the phases are separated, the ether solution is washed with brine, dried, and evaporated to a white amorphous solid. Recrystallization from hexane affords the title compound as a crystalline solid, m.p. 50°-53° C.

reactant | 4-(n-hexadecylamino)benzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ether | CCOCC | C4H10O
product | N-trifluoroacetyl-4-(hexadecylamino)benzoic acid | FC(C(=O)N(C1=CC=C(C(=O)O)C=C1)CCCCCCCCCCCCCCCC)(F)F | C25H38F3NO3
